US04224371
A solution of 6 g of sodium acetate in 20 ml of water was added with stirring at 20° C. to 50 ml of 98% ethanol and with continued stirring 25 g of an ethanol solvate of the syn isomer of 3-acetoxymethyl-7-[2-(2-amino-4-thiazolyl)-2-methoxyimino-acetamido]-ceph-3-eme-4-carboxylic acid were added thereto. After dissolution occured, the solution was cooled to 0° C. and 50 ml of 98% ethanol were added thereto dropwise with stirring. Activated carbon was added to the solution which was then filtered and the filtrate was heated to 20° C. Crystallization spontaneously occured shortly thereafter and filtration by aspiration was effected at room temperature 16 hours later. The recovered product was washed with a 1-7 water-ethanol mixture, with ethanol and then with ether to obtain colorless crystals of the D form of the syn isomer of sodium 3-acetoxymethyl-7-[2-(2-amino-4-thiazolyl)-2-methoxyimino-acetamido]-ceph-3-eme-4 -carboxylate which after drying under reduced pressure contained 4.8% of water (by Fischer). The spectrum of X-ray diffraction and the infrared spectrum in nujol confirmed the D form.

reactant | sodium acetate | 6 g | C(C)(=O)[O-].[Na+]
reactant | ethanol | C(C)O | C2H6O
reactant | ethanol | 25 g | C(C)O | C2H6O
reactant | 3-acetoxymethyl-7-[2-(2-amino-4-thiazolyl)-2-methoxyimino-acetamido]-ceph-3-eme-4-carboxylic acid | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(C(=NOC)C=2N=C(SC2)N)=O)=O | C16H17N5O7S2
reactant | ethanol | 50 ml | C(C)O | C2H6O
solvent | water | 20 ml | O | H2O
product | sodium 3-acetoxymethyl-7-[2-(2-amino-4-thiazolyl)-2-methoxyimino-acetamido]-ceph-3-eme-4 -carboxylate | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)[O-])C(C2NC(C(=NOC)C=2N=C(SC2)N)=O)=O.[Na+] | InChI=1S/C16H17N5O7S2.Na/c1-6(22)28-3-7-4-29-14-10(13(24)21(14)11(7)15(25)26)19-12(23)9(20-27-2)8-5-30-16(17)18-8;/h5,10,14H,3-4H2,1-2H3,(H2,17,18)(H,19,23)(H,25,26);/q;+1/p-1/t10?,14-;/m1./s1
